US06127354
A solution of (2E)-5-(tert-butoxycarbonylamino)-5-methylhex-2-enoic acid (202 mg, 0.83 mmol) and 1-hydroxy-7-azabenzotriazole (113 mg, 0.83 mmol) in N,N-dimethyformamide (3 ml) and dichloromethane (3 ml) was cooled to 0° C. N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (159 mg, 0.83 mmol) was added. The reaction mixture was stirred for 10 min at 0° C. A solution of (2R)-3-(biphenyl-4-yl)-N-methyl-2-(methylamino)-N-(2-(2-thienyl)ethyl)propionamide (314 mg, 0.83 mmol) in dichloromethane (3 ml) and ethyldiisopropylamine (0.14 ml, 0.83 mmol) were added successively. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (100 ml) and washed with a 10% aqueous solution of sodium hydrogen sulfate (100 ml). The aqueous solution was extracted with ethyl acetate (2×50 ml). The combined organic layers were washed with a saturated solution of sodium hydrogen carbonate (100 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified on silica (80 g), using ethyl acetate/heptane (1:1 (500 ml), then 2:1) as eluent, to give 374 mg of (3E)-4-(N-((1R)-2-(biphenyl-4-yl)-1-(N-methyl-N-(2-(2-thienyl)ethyl)carbamoyl)ethyl)-N-methylcarbamoyl)-1,1-dimethylbut-3-enylcarbamic acid tert-butyl ester.

reactant | (2E)-5-(tert-butoxycarbonylamino)-5-methylhex-2-enoic acid | 0.83 mmol, 202 mg | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | 1-hydroxy-7-azabenzotriazole | 0.83 mmol, 113 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 0.83 mmol, 159 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-3-(biphenyl-4-yl)-N-methyl-2-(methylamino)-N-(2-(2-thienyl)ethyl)propionamide | 0.83 mmol, 314 mg | C1(=CC=C(C=C1)C[C@H](C(=O)N(CCC=1SC=CC1)C)NC)C1=CC=CC=C1 | C23H26N2OS
reactant | ethyldiisopropylamine | 0.83 mmol, 0.14 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethyformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (3E)-4-(N-((1R)-2-(biphenyl-4-yl)-1-(N-methyl-N-(2-(2-thienyl)ethyl)carbamoyl)ethyl)-N-methylcarbamoyl)-1,1-dimethylbut-3-enylcarbamic acid tert-butyl ester | 374 mg | C(C)(C)(C)OC(NC(C\C=C\C(N(C)[C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)C(N(CCC=1SC=CC1)C)=O)=O)(C)C)=O | C35H45N3O4S
